US08859566B2
A mixture of 8-(1-Benzyl-1H-pyrazol-4-yl)-1-propyl-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.154 g, 0.29 mmol), and DMSO (0.2 ml, 2.9 mmol) was taken in THF (10 ml). 0.5M solution of KOtBu (4 ml, 2.0 mmol) in THF was added at 0° C. and stirred for 18 hours. After adding saturated NH4Cl solution, the compound was extracted with ethyl acetate (2×10 ml). Organic layer was washed with brine (2×10 ml), dried over Na2SO4. Solvent was evaporated and purified by preparative TLC to get pure 1-Propyl-8-(1H-pyrazol-4-yl)-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one as white solid (89 mg, 70%)

reactant | 8-(1-Benzyl-1H-pyrazol-4-yl)-1-propyl-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.29 mmol, 0.154 g | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)N1CCCC1 | C28H39N7O2Si
reactant | DMSO | 2.9 mmol, 0.2 ml | CS(=O)C | C2H6OS
reactant | KOtBu | 2.0 mmol, 4 ml | CC(C)(C)[O-].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Propyl-8-(1H-pyrazol-4-yl)-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 89 mg, 70% | C(CC)N1C(=NC=2N=C(N(C2C1=O)COCC[Si](C)(C)C)C=1C=NNC1)N1CCCC1 | C21H33N7O2Si
